* VCO 77GHz — Shooting-method PSS via long transient
* Extract steady-state oscillation frequency, amplitude, power
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

VCC vcc 0 DC 3.3
VTUNE vtune 0 DC 0.9

* Cross-coupled differential VCO
* Q1 and Q2 form cross-coupled pair
XQ1 c1 c2 tail 0 npn13G2l m=2
XQ2 c2 c1 tail 0 npn13G2l m=2

* LC tank: BJT Ceff varies with swing (nonlinear Cje/Cbc)
* Empirically tuned: L=32pH gives 76.1GHz with npn13G2l m=2
* Q=8 → Rs = 2*pi*77e9*32e-12/8 = 1.9Ω
L1 vcc c1_l 32p
RL1 c1_l c1 1.9
L2 vcc c2_l 32p
RL2 c2_l c2 1.9

* Tail current
ITAIL tail 0 DC 6m

* Startup kick: inject asymmetric pulse into c1
Ikick c1 0 PULSE(0 1m 0 1p 1p 5p 1n)

* Convergence — aggressive relaxation for mm-wave oscillator
.options reltol=10e-3 abstol=1e-9 vntol=1e-3 itl1=500 itl2=200 itl4=500
.options gmin=1e-10 method=trap gminsteps=50 srcsteps=50
.ic v(c1)=3.3 v(c2)=3.0 v(tail)=2.4

.control
set maxdata=100000000
* First check DC OP
op
echo "DC OP:"
print v(c1) v(c2) v(tail)
destroy all

* Now transient with UIC
tran 0.5p 3n uic

echo "=== VCO PSS (Shooting Method) ==="
* Measure frequency from v(c1) crossings (midpoint ~ 3.29V)
meas tran t1 when v(c1)=3.29 rise=50
meas tran t2 when v(c1)=3.29 rise=51
print t1 t2

* Amplitude
meas tran vc1max max v(c1) from=1.5n to=2n
meas tran vc1min min v(c1) from=1.5n to=2n
meas tran vc2max max v(c2) from=1.5n to=2n
meas tran vc2min min v(c2) from=1.5n to=2n
print vc1max vc1min vc2max vc2min

* Power
meas tran isupply avg i(vcc) from=1.5n to=2n
print isupply
quit
.endc
.end