** sch_path: /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/tb_vco.sch
**.subckt tb_vco
XQ49 OUTP OUTN VCO_TAIL sub! npn13G2l Nx=1 El=1.0
XQ50 OUTN OUTP VCO_TAIL sub! npn13G2l Nx=1 El=1.0
L1 VCC OUTP 27p
L2 VCC OUTN 27p
CVAR1 OUTP OUTN 15f
CVAR2 VCO_TAIL net1 12f
CVAR3 net1 net2 12f
ITAIL net3 net4 DC 5m
VCC VCC net5 DC 3.3
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter
.tran 0.2p 1.5n
.meas tran freq_osc trig v(outp) val=3.3 rise=40 targ v(outp) val=3.3 rise=41
.meas tran vswing pp v(outp) from=0.5n to=1.5n


**** end user architecture code
**.ends
.GLOBAL GND
.end
